US04341780
Trimethyl-sulphoxonium iodide (1 g) was reacted with 50% sodium hydride (0.22 g) in dimethylformamide (30 ml) under stirring at room temperature for 30 minutes, then a solution of 2-trans-[2-(3-methoxy-phenyl)-ethenyl]-3-ethyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester, m.p. 177°-179° C., (1.27 g) in dimethylformamide (20 ml) was added. The mixture was allowed to react under stirring at room temperature for 2 hours, then it was diluted with ice water and the precipitate was filtered, so obtaining 1.19 g of 2-trans-[2-(3-methoxy-phenyl)-ethenyl]-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester (m.p. 184°-188° C.), which was treated with 0.5% KOH in 95% ethanol solution (40 ml) at reflux temperature for 15 minutes. After cooling the reaction mixture was diluted with water and acidified with acetic acid and the precipitate was filtered: crystallization from CH 2 Cl2 /methanol gave 2-trans-[2-(3-methoxy-phenyl)-ethenyl]-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid (0.65 g), m.p. 184°-188° C. NMR (CF3COOD) δ: 1.22(d.d) (one of 6,7-methylen protons), 1.36(t) (--CH2 --CH3), 2,96(m)(--CH2CH3 and 6,7-methylen proton), 4.12(s) (OCH3), 5.50(d.d) (c-6 proton), 7.03(d) (c-9 proton), 7.36(d) (Hβ -vinyl proton), 7.68(d) (Hα -vinyl proton), 7.18-7.70(m) (4-phenyl protons), 8.26(d) (c-8 proton), JHαHβ =16 Hz.

reactant | Trimethyl-sulphoxonium iodide | 1 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | 2-trans-[2-(3-methoxy-phenyl)-ethenyl]-3-ethyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester | COC=1C=C(C=CC1)/C=C/C=1N=C2N(C(C1CC)=O)C=C(C=C2)C(=O)OC | C21H20N2O4
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-trans-[2-(3-methoxy-phenyl)-ethenyl]-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester | 1.19 g | COC=1C=C(C=CC1)/C=C/C=1N=C2N(C(C1CC)=O)C1C(C=C2)(C(=O)OC)C1 | C22H22N2O4
